US06114334
Phenylhydrazine (75 g) was added dropwise at <20° C. to stirred acetic acid (198 ml). When the addition was complete, formamide (27.9 ml) was added in one portion, and the mixture was stirred at ambient temperature for 4 hours. Water (225 ml) was added, and the resulting solid was collected by filtration, washed well with water, and dried in vacuo to give N'-phenylformohydrazide (68.8 g) as a cream solid, m.p. 138-143° C.

reactant | Phenylhydrazine | 75 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | acetic acid | 198 ml | C(C)(=O)O | C2H4O2
reactant | formamide | 27.9 ml | C(=O)N | CH3NO
solvent | Water | 225 ml | O | H2O
product | N'-phenylformohydrazide | 68.8 g | C1(=CC=CC=C1)NNC=O | C7H8N2O
